US06831094B2
Preparation of t-Butyl (2S)-2-({[1-(phenylsulfonyl)-1H-indol-4-yl]oxy}methyl)-1-pyrrolidinecarboxylate
A stirred solution of t-butyl (2S)-2-[(1H-indol-4-yloxy)methyl]-1-pyrrolidinecarboxylate (1.23 g, 3.89 mmol) in THF is treated with sodium hydride (0.17 g, 60% in mineral oil, 4.28 mmol) under nitrogen at room temperature, stirred for 30 minutes, treated with benzenesulfonyl chloride (0.55 mL, 4.28 mmol), stirred at room temperature for 22 h, quenched with ice-water and diluted with EtOAc. The organic phase is separated, washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (siliga gel, EtOAc/hexanes, 2/8) to afford the title compound as an off-white foam, 1.21 g, mp 48-50° C., identified by NMR and mass spectral analyses.

reactant | t-butyl (2S)-2-[(1H-indol-4-yloxy)methyl]-1-pyrrolidinecarboxylate | 3.89 mmol, 1.23 g | N1C=CC2=C(C=CC=C12)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C18H24N2O3
reactant | sodium hydride | 4.28 mmol, 0.17 g | [H-].[Na+]
reactant | benzenesulfonyl chloride | 4.28 mmol, 0.55 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | C1CCOC1 | C4H8O
product | t-Butyl (2S)-2-({[1-(phenylsulfonyl)-1H-indol-4-yl]oxy}methyl)-1-pyrrolidinecarboxylate | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C24H28N2O5S
